US06399798B2
Following the method of Shapiro et al., JACS, 79:2811 (1957), salicylamide (59.0 g, 0.43 mol, 1.0 eq), pyridine (150 mL) and acetonitrile (125 mL) were placed in a 500 mL three-neck flask equipped with a magnetic stir bar, a thermometer, and an addition funnel. After cooling to about 5° C. in a salt ice bath, ethyl chloroformate (45.2 mL, 0.47 mol, 1.1 eq) was added dropwise over 25 minutes so that the reaction temperature did not exceed 10° C. during the addition. The reaction mixture was stirred for 30 minutes at 10° C. The addition funnel was replaced with a Dean-Stark trap and a water-cooled condenser. The mixture was heated to a distillation temperature of about 90° C. Distillation was continued until the internal temperature reached about 124° C. (200 ml. of distillate removed). The temperature was reduced so that the reaction mixture refluxed but did not distill. After one hour at reflux, the reaction mixture was cooled to about 25° C. and poured into water (400 mL). Concentrated aqueous hydrochloric acid (24 mL) was added. A white solid formed, which was collected by filtration, washed with water (200 mL), and dried under vacuum. The 2H-1,3-benzoxazine-2,4(3H)-dione was isolated as a white solid (59.3 g, 85% yield).

reactant | salicylamide | 0.43 mol, 59.0 g, 1.0 eq | C(C=1C(O)=CC=CC1)(=O)N | C7H7NO2
reactant | pyridine | 150 mL | N1=CC=CC=C1 | C5H5N
reactant | acetonitrile | 125 mL | C(C)#N | C2H3N
reactant | ethyl chloroformate | 0.47 mol, 45.2 mL, 1.1 eq | ClC(=O)OCC | C3H5ClO2
solvent | water | O | H2O
product | 2H-1,3-benzoxazine-2,4(3H)-dione | O1C(NC(C2=C1C=CC=C2)=O)=O | C8H5NO3
